US07294627B2
N-(4-methoxybenzoyl)-N-(2,4-dimethoxybenzyl)-(2-chloro-phenyl)glycine
To a solution of N-(4-methoxybenzoyl)-N-(2,4-dimethoxybenzyl)-(2-chlorophenyl)glycine methyl ester (30 g) in THF (350 ml) is added a solution of lithium hydroxide monohydrate (4.2 g) in water (85 ml) and the mixture is refluxed for 2 h before cooling and evaporation of excess THF in vacuo. The aqueous solution is extracted with ether to remove neutral compounds and the aqueous solution adjusted to pH2 with conc. hydrochloric acid. The acidic solution is extracted with dichloromethane (×3), washed with water, dried (MgSO4) and evaporated in vacuo to give the title compound (27.6 g) as a solid foam.

reactant | N-(4-methoxybenzoyl)-N-(2,4-dimethoxybenzyl)-(2-chlorophenyl)glycine methyl ester | 30 g | COC(C(N(CC1=C(C=C(C=C1)OC)OC)C(C1=CC=C(C=C1)OC)=O)C1=C(C=CC=C1)Cl)=O | C26H26ClNO6
reactant | lithium hydroxide monohydrate | 4.2 g | O.[OH-].[Li+]
solvent | THF | 350 ml | C1CCOC1 | C4H8O
solvent | water | 85 ml | O | H2O
product | N-(4-methoxybenzoyl)-N-(2,4-dimethoxybenzyl)-(2-chloro-phenyl)glycine | 27.6 g | COC1=CC=C(C(=O)N(C(C(=O)O)C2=C(C=CC=C2)Cl)CC2=C(C=C(C=C2)OC)OC)C=C1 | C25H24ClNO6
